US08357711B2
N-[3-fluoro-4-(trifluoromethyl)benzyl]-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzamide
The title compound was prepared from 4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzoic acid (Preparation 29) and 3-fluoro-4-(trifluoromethyl)benzylamine following the procedure described in Example 309. The reaction mixture was extracted from saturated sodium hydrogen carbonate into DCM and the crude product purified by preparative HPLC.

reactant | 4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzoic acid | S1N=CN=C1NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H7N3O4S2
reactant | 3-fluoro-4-(trifluoromethyl)benzylamine | FC=1C=C(CN)C=CC1C(F)(F)F | C8H7F4N
product | N-[3-fluoro-4-(trifluoromethyl)benzyl]-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzamide | FC=1C=C(CNC(C2=CC=C(C=C2)S(=O)(=O)NC2=NC=NS2)=O)C=CC1C(F)(F)F | C17H12F4N4O3S2
